US08580957B2
(1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl)formamide (for a preparation see intermediate 88) (0.5 g, 1.474 mmol) was suspended in ethanol (4 mL) and treated with HCl (5N in water, 1 ml, 5.00 mmol). The resulting mixture was stirred at 75° C. for 40 min under microwave irradiation then cooled to room temperature. The reaction mixture was basified with a saturated NaHCO3 aqueous solution (50 mL), and the aqueous phase was extracted with AcOEt (3×50 mL). The combined organic phases were dried over MgSO4 then concentrated in vacuo to give (cis)-1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine (399 mg, 1.28 mmol, 87%)

reactant | (1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinyl)formamide | C(C)(=O)N1C(CC(C2=CC(=CC=C12)Br)NC=O)CCC | C15H19BrN2O2
reactant | HCl | 5.00 mmol, 5N, 1 ml | Cl | ClH
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | (cis)-1-acetyl-6-bromo-2-propyl-1,2,3,4-tetrahydro-4-quinolinamine | 1.28 mmol, 399 mg, 87% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)Br)N)CCC | C14H19BrN2O
